US08957064B2
6-(4-fluorophenyl)-7-(4-{4-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-imidazo[1,2-a]pyrimidine formiate
219 mg (0.69 mmol) 2-Methyl-6-(5-piperidine-4-yl-2H-[1,2,4]triazole-3-yl)-pyridine×2HCl are dissolved in 5.4 mL NMP. After addition of 0.2 mL triethylamine the reaction mixture is stirred for one hour. 200 mg (0.63 mmol) 4-[6-(4-Fluorophenyl)imidazo[1,2-a]pyrimidin-7-yl]-benzaldehyde and 0.06 mL acetic acid are added. The reaction mixture is stirred over night at room temperature. 147 mg (0.69 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for 18 hours. The reaction mixture is treated with saturated NaHCO3 and stirred for 20 minutes. The precipitate is filtered off, washed with water and dried. 233 mg (62.6%) of the desired product are obtained. 100 mg of this material are further purified by HPLC yielding 74.3 mg of the title compound as formiate.

reactant | 2-Methyl-6-(5-piperidine-4-yl-2H-[1,2,4]triazole-3-yl)-pyridine | 0.69 mmol, 219 mg | CC1=NC(=CC=C1)C=1NN=C(N1)C1CCNCC1 | C13H17N5
reactant | 4-[6-(4-Fluorophenyl)imidazo[1,2-a]pyrimidin-7-yl]-benzaldehyde | 0.63 mmol, 200 mg | FC1=CC=C(C=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H12FN3O
reactant | NaBH(OAc)3 | 0.69 mmol, 147 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 5.4 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.06 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
product | 6-(4-fluorophenyl)-7-(4-{4-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-imidazo[1,2-a]pyrimidine | 233 mg, 62.6% | FC1=CC=C(C=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC(=CC=C2)C | C32H29FN8
